US04886835
The procedure is as in Example 2 for the preparation of ethyl (phenylthio)acetate, starting with 2-naphthylmercaptan (15 g), a 2M ethanolic solution of sodium ethylate (48 cc) and ethyl bromoacetate (15.7 g) in ethanol (150 cc). Ethyl (2-naphthylthio)acetate (16.67 g) is thereby obtained, and is used in the crude state in the subsequent syntheses.

reactant | ethyl (phenylthio)acetate | C1(=CC=CC=C1)SCC(=O)OCC | C10H12O2S
reactant | 2-naphthylmercaptan | 15 g | C1=C(C=CC2=CC=CC=C12)S | C10H8S
reactant | sodium ethylate | 48 cc | CC[O-].[Na+]
reactant | ethyl bromoacetate | 15.7 g | BrCC(=O)OCC | C4H7BrO2
solvent | ethanol | 150 cc | C(C)O | C2H6O
product | Ethyl (2-naphthylthio)acetate | 16.67 g | C1=C(C=CC2=CC=CC=C12)SCC(=O)OCC | C14H14O2S
